US07189741B2
C. Preparation of 2-(2-{4-[1-(5-chloro-thiophen-2-ylmethyl)-1H-indol-3-yl]-piperidin-1-yl}-ethoxy)-benzoic acid
This compound was prepared following the procedure described in example 13 (part D), starting with 4.21 mmol (13 mmol) of 1-(5-chloro-thiophen-2-ylmethyl)-3-piperidin-4-yl-1H-indole and 3.6 g (17 mmol) of of 2-(2-chloro-ethoxy)-benzoic acid methyl ester. After the standard work-up, 2.47 g of the corresponding acid was obtained. The crude mixture was purified by flash chromatography over silica gel affording 1.2 g (17% of yield) of the pure acid.

reactant | 1-(5-chloro-thiophen-2-ylmethyl)-3-piperidin-4-yl-1H-indole | 4.21 mmol | ClC1=CC=C(S1)CN1C=C(C2=CC=CC=C12)C1CCNCC1 | C18H19ClN2S
reactant | 2-(2-chloro-ethoxy)-benzoic acid methyl ester | COC(C1=C(C=CC=C1)OCCCl)=O | C10H11ClO3
product | 2-(2-{4-[1-(5-chloro-thiophen-2-ylmethyl)-1H-indol-3-yl]-piperidin-1-yl}-ethoxy)-benzoic acid | 2.47 g | ClC1=CC=C(S1)CN1C=C(C2=CC=CC=C12)C1CCN(CC1)CCOC1=C(C(=O)O)C=CC=C1 | C27H27ClN2O3S
